US08871792B2
(S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester
To a solution of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 335 μmol) in dry DMF (6 mL) was added (S)-2-methoxycarbonylamino-3-methylbutyric acid chloromethyl ester (112 mg, 503 μmol), NaI (101 mg, 670 μmol), 2,6-dimethylpyridine (143 mg, 1.3 mmol) in portions at room temperature. The resulting mixture was stirred at room temperature for 8 hours. Water (12 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=3:1) to yield the title compound as a white solid (8.4 mg). LC-MS: 712.9 [M+H]+. 1H NMR: (MeOD, 400 MHz) δ 0.85 (dd, J=14.1, 6.8 Hz, 6H), 2.01-2.17 (m, 1H), 3.42-3.51 (m, 2H), 3.69 (s, 3H), 4.00 (d, J=5.9 Hz, 1H), 4.23 (br, 2H), 4.42 (t, J=4.7 Hz, 1H), 5.83 (dd, J=31.5, 5.6 Hz, 2H), 7.19 (t, J=9.4 Hz, 1H), 7.32-7.39 (m, 3H), 7.47-7.51 (m, 4H), 7.56-7.58 (m, 2H), 7.91 (d, J=8.0 Hz, 2H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid | 335 μmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)O)O)F | C25H21ClFN5O5
reactant | (S)-2-methoxycarbonylamino-3-methylbutyric acid chloromethyl ester | 503 μmol, 112 mg | ClCOC([C@H](C(C)C)NC(=O)OC)=O | C8H14ClNO4
reactant | NaI | 670 μmol, 101 mg | [Na+].[I-]
reactant | 2,6-dimethylpyridine | 1.3 mmol, 143 mg | CC1=NC(=CC=C1)C | C7H9N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | Water | 12 mL | O | H2O
product | (S)-2-Methoxycarbonylamino-3-methylbutyric Acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester | 8.4 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)OCOC([C@H](C(C)C)NC(=O)OC)=O)O)F | C33H34ClFN6O9
